US06268387B1
3-(3-Methyl-phenylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 25 using 3-amino-4-methoxy-N-phenyl-benzamide (1.0 g, 4.1 mmol), tris(3-methylphenyl)bismuthine (2.2 g, 4.6 mmol), copper(II) acetate (0.8 g, 4.4 mmol), and triethylamine (0.44 g, 4.4 mmol) to afford the product (0.7 g); m.p. 160-161° C. after recrystallization from acetonitrile.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.1 mmol, 1.0 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | tris(3-methylphenyl)bismuthine | 4.6 mmol, 2.2 g | CC=1C=C(C=CC1)[Bi](C1=CC(=CC=C1)C)C1=CC(=CC=C1)C
reactant | triethylamine | 4.4 mmol, 0.44 g | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 4.4 mmol, 0.8 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(3-Methyl-phenylamino)-4-methoxy-N-phenyl-benzamide | 0.7 g | CC=1C=C(C=CC1)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C21H20N2O2
